US04385086
Tetraacetoxysilane was prepared by the reaction of 125 g of silicon tetrachloride and 400 g of acetic acid as blended and stirred at room temperature. When the evolution of hydrogen chloride gas had ceased with precipitation of white crystalline tetraacetoxysilane, the unreacted acetic acid was removed by stripping under a reduced pressure and the residue was dissolved in 300 g of ethyl alcohol. The reaction between the tetraacetoxysilane and ethyl alcohol was carried out by heating the above reaction mixture at 60° C. with agitation for 10 hours. The formation of large amounts of ethyl acetate and hydroxy-containing silane compounds was detected in the resultant reaction mixture which had a solid content of 5.9% by weight upon dilution by adding 120 g of ethyl alcohol.

reactant | silicon tetrachloride | 125 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | acetic acid | 400 g | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | silane | [SiH4] | H4Si
solvent | ethyl alcohol | 120 g | C(C)O | C2H6O
product | Tetraacetoxysilane | C(C)(=O)O[Si](OC(C)=O)(OC(C)=O)OC(C)=O | C8H12O8Si
